US06479536B1
5,6-Dichloro-2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]isoindoline
By using 5,6-dichloro-2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione, the title compound was synthesized according to Example 2a. Yield: 25%. Melting point: 233-238° C. (Ethyl acetate)

reactant | 5,6-dichloro-2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | ClC=1C=C2C(N(C(C2=CC1Cl)=O)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)F)C1C)C)C)=O | C27H22Cl2FNO3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-Dichloro-2-[3-(4-fluorophenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]isoindoline | Yield: 25% | ClC=1C=C2CN(CC2=CC1Cl)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)F)C1C)C)C | C27H26Cl2FNO
